US08044062B2
Acetic anhydride (15.0 mL) was added to a flask charged with crude 8-ethyl-6-(1H-imidazol-5-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-imine and heated to 100° C. After 30 minutes, the reaction was allowed to cool to room temperature and concentrated in vacuo. The acetylated residue was then treated with 6 N HCl (16 mL) and heated to 95° C. for 30 minutes then transferred to a large flask. A saturated solution of NaHCO3 (150 mL) was added at 0° C. to about pH=8.0. The aqueous phase was washed thrice with ethyl acetate (100 mL) and the organic layers combined, then washed with brine and dried over Na2SO4. The drying agent was filtered off and the organic layers were concentrated in vacuo to afford crude 8-ethyl-6-(1H-imidazol-5-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one which was used in the subsequent step without further purification.

reactant | Acetic anhydride | 15.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8-ethyl-6-(1H-imidazol-5-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-imine | C(C)N1C(C(=CC2=C1N=C(N=C2C)SC)C2=CN=CN2)=N | C14H16N6S
product | 8-ethyl-6-(1H-imidazol-5-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | C(C)N1C(C(=CC2=C1N=C(N=C2C)SC)C2=CN=CN2)=O | C14H15N5OS
